US07368578B2
A mixture of ethyl {4-[4-({4-[({4-[(E)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (52 mg), 1N aqueous sodium hydroxide solution (2 mL), tetrahydrofuran (4 mL) and ethanol (4 mL) was heated under reflux for 30 min. After cooling, 1N hydrochloric acid was added to the reaction mixture for neutralization, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine; dried over anhydrous magnesium sulfate and concentrated. Recrystallization of the obtained crystal from tetrahydrofuran-hexane gave {4-[4-({4-[({4-[(E)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid as colorless crystals (37.6 mg, yield 77%). melting point: 165-166° C.

reactant | ethyl {4-[4-({4-[({4-[(E)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 52 mg | C(C)N1N=CC(=C1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H39N5O6
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | {4-[4-({4-[({4-[(E)-2-(1-ethyl-1H-pyrazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid | 37.6 mg, yield 77% | C(C)N1N=CC(=C1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=C1)OC | C37H35N5O6
